US05223529
Triethylamine (0.7 g), and then 2-indolecarbonyl chloride (1.2 g) dissolved in 1,2-dichloroethane (35 cc), are added to a solution, stirred at a temperature in the region of 25° C., of tert-butyl 2-(2-amino-N-phenylacetamido)acetate (1.2 g) in 1,2-dichloroethane (35 cc). The reaction mixture is stirred for 18 hours at a temperature in the region of 25° C. Dichloromethane (250 cc) is then added, followed by saturated aqueous sodium hydrogen carbonate solution (125 cc). The organic phase is washed with distilled water (2×125 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in acetonitrile, N-[N-(tert-butoxycarbonylmethyl) phenylcarbamoylmethyl]-2-indolecarboxamide (1 g), m.p. 203° C., is obtained.

reactant | Triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
reactant | 2-indolecarbonyl chloride | 1.2 g | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | tert-butyl 2-(2-amino-N-phenylacetamido)acetate | 1.2 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)OC(C)(C)C | C14H20N2O3
reactant | sodium hydrogen carbonate | 125 cc | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 35 cc | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 35 cc | ClCCCl | C2H4Cl2
solvent | Dichloromethane | 250 cc | ClCCl | CH2Cl2
product | N-[N-(tert-butoxycarbonylmethyl) phenylcarbamoylmethyl]-2-indolecarboxamide | 1 g | C(C)(C)(C)OC(=O)CN(C(=O)CNC(=O)C=1NC2=CC=CC=C2C1)C1=CC=CC=C1 | C23H25N3O4
